US08293798B2
Methyl 4-({[(2-chloro-5-{[(2-methyl-3-pyridinyl)methyl]oxy}phenyl)carbonyl]amino}methyl)benzoate
A solution of methyl 4-({[(2-chloro-5-hydroxyphenyl)carbonyl]amino}methyl)benzoate (100 mg, 0.31 mmol) in THF (5 ml) was treated with triphenylphosphine (1.2 eq, 98 mg, 0.37 mmol), (2-methyl-3-pyridinyl)methanol (38 mg, 0.31 mmol) and diisopropylazodicarboxylate (1.2 eq, 110 ul, 0.56 mmol) and stirred at room temperature for 4 hours. Mixture diluted with methanol and purified by SCX cartridge eluting with methanol first then 2M ammonia in methanol. Basic fractions combined and evaporated to give the title compound as an off-white solid. MS (ES+) m/z 425 [M+H]+ (C23H2135ClN2O4). 1H-NMR (400 MHz, d6-DMSO) δ 3.85 (3H, s), 4.51 (2H, d, J 6), 5.18 (2H, s), 7.10-7.96 (9H, m), 8.42 (1H, dd, J 1.6, J 4.8), 9.07 (1H, t, J 6).

reactant | methyl 4-({[(2-chloro-5-hydroxyphenyl)carbonyl]amino}methyl)benzoate | 0.31 mmol, 100 mg | ClC1=C(C=C(C=C1)O)C(=O)NCC1=CC=C(C(=O)OC)C=C1 | C16H14ClNO4
reactant | triphenylphosphine | 0.37 mmol, 98 mg, 1.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2-methyl-3-pyridinyl)methanol | 0.31 mmol, 38 mg | CC1=NC=CC=C1CO | C7H9NO
reactant | diisopropylazodicarboxylate | 0.56 mmol, 110 ul, 1.2 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | Methyl 4-({[(2-chloro-5-{[(2-methyl-3-pyridinyl)methyl]oxy}phenyl)carbonyl]amino}methyl)benzoate | ClC1=C(C=C(C=C1)OCC=1C(=NC=CC1)C)C(=O)NCC1=CC=C(C(=O)OC)C=C1 | C23H21ClN2O4
